US07829717B2
To a stirred suspension of 3-iodoaniline (1.27 mL, 1 mmol) in anhydrous toluene (100 mL) in a pre-dried flask under N2 atmosphere was added trimethylaluminium (6.1 mL of a 2M solution in toluene, 12.0 mmol), and the resulting solution left to stir at rt overnight. Methyl 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylate (3.0 g, 10 mmol) was then added and the mixture heated at reflux for 5 h. Upon cooling to rt, 100 mL of 2M NaOH was added and the mixture was stirred for 30 min. The solution was then partitioned over CH2Cl2 and the aqueous phase was extracted with CH2Cl2 (3×100 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The resulting brown solid was treated with MeOH, sonicated for 2 min, and filtered. The solid was washed with MeOH to provide 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid (3-iodophenyl)amide as a brown powder. MS (ES): m/z 485.8 [M+1]. 1H NMR (DMSO-d6, 400 MHz): δ5.06 (d, J=5.4 Hz, 2H), 6.77 (d, J=5.6 Hz, 1H), 7.08 (t, J=8.0 Hz, 1H), 7.37 (d, J=6.0 Hz, 2H), 7.60 (d, J=5.6 Hz, 1H), 7.66-7.69 (m, 2H), 7.78 (t, J=7.6 Hz, 1H), 8.04 (d, J=8.4 Hz, 1H), 8.04-8.10 (m, 1H), 8.19 (s, 1H), 8.22 (d, J=8.8 Hz, 1H), 8.82 (d, J=4.4 Hz, 1H), 9.47 (s, 1H).

reactant | 3-iodoaniline | 1 mmol, 1.27 mL | IC=1C=C(N)C=CC1 | C6H6IN
reactant | trimethylaluminium | C[Al](C)C
reactant | Methyl 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylate | 10 mmol, 3.0 g | N1=CC=C(C2=CC=CC=C12)CNC1=C(SC=C1)C(=O)OC | C16H14N2O2S
reactant | NaOH | 2M, 100 mL | [OH-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid (3-iodophenyl)amide | IC=1C=C(C=CC1)NC(=O)C=1SC=CC1NCC1=CC=NC2=CC=CC=C12 | C21H16IN3OS
